US07589081B2
Synthesis of 1-mesityl-2-(dicyclohexyl-phosphino)imidazole
1.6 ml of TMEDA (15 mmol.) are added to a suspension of 1.86 g (10 mmol.) of N-mesitylimidazole in 30 ml of hexane. 6.25 ml of 1.6 molar n-butyllithium solution (10 mmol.) are added at room temperature. The mixture is then heated for 2.5 hours at reflux temperature (solution 1). In another flask, 2.2 ml (10 mmol.) of dicyclohexylchlorophosphane are mixed with 20 ml of hexane and heated to 60° C. (solution 2). The boiling solution 1 is then slowly transferred into solution 2, which is at 60° C., by means of a cannula. The mixture is then boiled for a further 1 hour at reflux, the solution is cooled, and 20 ml of degassed water are added thereto. The organic phase is filtered off over magnesium sulfate. The solution is concentrated in vacua; 30 ml of pentane are added thereto, and the mixture is boiled for 1 hour at reflux. The product precipitates in crystalline form at −30° C. and is filtered off while cold. Yield: 2.48 g (65%)

reactant | TMEDA | 15 mmol, 1.6 ml | CN(C)CCN(C)C | C6H16N2
reactant | N-mesitylimidazole | 10 mmol, 1.86 g | C1(=C(C(=CC(=C1)C)C)N1C=NC=C1)C | C12H14N2
reactant | n-butyllithium | 10 mmol, 1.6 molar, 6.25 ml | C(CCC)[Li]
reactant | dicyclohexylchlorophosphane | 10 mmol, 2.2 ml | C1(CCCCC1)P(Cl)C1CCCCC1 | C12H22ClP
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | hexane | 20 ml | CCCCCC | C6H14
solvent | water | 20 ml | O | H2O
product | 1-mesityl-2-(dicyclohexyl-phosphino)imidazole | C1(=C(C(=CC(=C1)C)C)N1C(=NC=C1)P(C1CCCCC1)C1CCCCC1)C | C24H35N2P
